US06080757
A. (1,1-diethoxy-propyl)-benzene
To a solution of propiophenone (20 mL, 0.15 mol) in ethanol (EtOH) (20 mL) was added triethylorthoformate (32.4 mL, 0.20 mol). A stream of HCl gas was bubbled through this solution for approximately 15 seconds, then the golden solution was stirred for 20 hours at ambient temperature. The solution was then treated with NaOMe/EtOH until basic, followed by filtration. The filtrate was concentrated by removal of the EtOH in vacuo. The product was isolated via vacuum distillation to give the title compound (22.2 g, 71%). 1H NMR (300 MHz, CDCl3)δ7.51-7.47 (m, 2H), δ7.36-7.23 (m, 3H), δ3.47-3.17 (m, 4H), δ1.92 (quartet, J=7.5 Hz, 2H), δ1.20 (t, J=7.1 Hz, 6H), δ0.57 J=7.5 Hz, 3H).

reactant | propiophenone | 0.15 mol, 20 mL | C(CC)(=O)C1=CC=CC=C1 | C9H10O
reactant | triethylorthoformate | 0.20 mol, 32.4 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | ethanol | 20 mL | C(C)O | C2H6O
product | (1,1-diethoxy-propyl)-benzene | 22.2 g, 71% | C(C)OC(CC)(OCC)C1=CC=CC=C1 | C13H20O2
